US07135480B2
1-Benzoyl-3-cyano-8-methyl-pyrrolo[1,2-a]quinoline
7-Methyl-1-phenacyl-quinolinium bromide: The title compound was prepared from 2-bromo-1-phenyl-ethanone (490 mg, 2.46 mmol), 7-methyl-quinoline (302 mg, 2.11 mmol) and acetonitrile (5 mL), similar to Example 1a, and yielded 499 mg (69%) as a light tan solid: 1H NMR (CD3OD) 9.28–9.25 (m, 2H), 8.37 (d, J=8.4 Hz, 1H), 8.23–8.19 (m, 2H), 8.13–8.08 (m, 2H), 7.91 (dd, J=0.9, 8.7 Hz, 1H), 7.83–7.78 (m, 1H), 7.70–7.64 (m, 2H), 2.67 (s, 3H).

reactant | 7-Methyl-1-phenacyl-quinolinium bromide | [Br-].CC1=CC=C2C=CC=[N+](C2=C1)CC(=O)C1=CC=CC=C1
reactant | 2-bromo-1-phenyl-ethanone | 2.46 mmol, 490 mg | BrCC(=O)C1=CC=CC=C1 | C8H7BrO
reactant | 7-methyl-quinoline | 2.11 mmol, 302 mg | CC1=CC=C2C=CC=NC2=C1 | C10H9N
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | 1-Benzoyl-3-cyano-8-methyl-pyrrolo[1,2-a]quinoline | C(C1=CC=CC=C1)(=O)C1=CC(=C2N1C1=CC(=CC=C1C=C2)C)C#N | C21H14N2O
